US09388195B2
F) Production of tert-butyl(1R*,4S*,6R*)-4-({[(4-nitrophenyl)carbonyl]oxy}methyl)-3-azabicyclo[4.1.0]heptane-3-carboxylate
tert-Butyl 2-{[(4-nitrophenyl)carbonyl]oxy}methyl)-3,6-dihydropyridine-1(2H)-carboxylate (10.0 g) produced above was dissolved in 5% diazomethane/diethyl ether (1.4 L), palladium acetate (689 mg) was added at 10° C., and the mixture was stirred at the same temperature for 40 min. The reaction mixture was purified by silica gel column chromatography (ethyl acetate/petroleum ether) to give a mixture of tert-butyl 2-({[(4-nitrophenyl)carbonyl]oxy}methyl)-3,6-dihydropyridine-1(2H)-carboxylate and the title compound. The obtained mixture was subjected to 3 repeats of a similar reaction operation to give the title compound (8.4 g).

reactant | tert-butyl 2-({[(4-nitrophenyl)carbonyl]oxy}methyl)-3,6-dihydropyridine-1(2H)-carboxylate | [N+](=O)([O-])C1=CC=C(C=C1)C(=O)OCC1N(CC=CC1)C(=O)OC(C)(C)C | C18H22N2O6
reactant | diazomethane diethyl ether | 1.4 L | [N+](=[N-])=C.C(C)OCC
catalyst | palladium acetate | 689 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | tert-butyl(1R*,4S*,6R*)-4-({[(4-nitrophenyl)carbonyl]oxy}methyl)-3-azabicyclo[4.1.0]heptane-3-carboxylate | [N+](=O)([O-])C1=CC=C(C=C1)C(=O)OC[C@H]1N(C[C@@H]2C[C@@H]2C1)C(=O)OC(C)(C)C | C19H24N2O6
